US08378104B2
Step B: 3-chloro-2-phenyl-4-[1-(piperidin-4-yl)-1H-pyrazol-4-yl]furo[2,3-c]pyridin-7-amine hydrochloride (Title Compound)
A solution of tert-butyl 4-[4-(7-amino-3-chloro-2-phenylfuro[2,3-c]pyridin-4-yl)-1H-pyrazol-1-yl]piperidine-1-carboxylate in DCM (1.0 mL) was treated with HCl (1 M in Et2O, 2.0 mL, 2.0 mmol) and stirred at RT. The reaction was concentrated in vacuo to provide 43 mg (76%) of the title compound. 1H NMR (400 MHz, CD3OD) δ 6.94-6.98 (m, 2H), 6.80 (s, 1H), 6.53 (s, 1H), 6.32-6.36 (m, 4H), 3.40 (tt, J=9.98, 4.93 Hz, 1H), 2.34 (dt, J=13.26, 3.35 Hz, 2H), 1.94-2.00 (m, 2H), 1.05-1.15 (m, 4H); MS (ESI): 394.14 [M+H]+; HPLC tR=0.97 min (TOF: polar—3 min).

reactant | tert-butyl 4-[4-(7-amino-3-chloro-2-phenylfuro[2,3-c]pyridin-4-yl)-1H-pyrazol-1-yl]piperidine-1-carboxylate | NC=1N=CC(=C2C1OC(=C2Cl)C2=CC=CC=C2)C=2C=NN(C2)C2CCN(CC2)C(=O)OC(C)(C)C | C26H28ClN5O3
reactant | HCl | 2.0 mmol, 1 M, 2.0 mL | Cl | ClH
solvent | DCM | 1.0 mL | C(Cl)Cl | CH2Cl2
product | 3-chloro-2-phenyl-4-[1-(piperidin-4-yl)-1H-pyrazol-4-yl]furo[2,3-c]pyridin-7-amine hydrochloride | 43 mg, 76% | Cl.ClC1=C(OC2=C(N=CC(=C21)C=2C=NN(C2)C2CCNCC2)N)C2=CC=CC=C2 | InChI=1S/C21H20ClN5O.ClH/c22-18-17-16(14-10-26-27(12-14)15-6-8-24-9-7-15)11-25-21(23)20(17)28-19(18)13-4-2-1-3-5-13;/h1-5,10-12,15,24H,6-9H2,(H2,23,25);1H
